US07601711B2
(RS)-[1-(3-Chloro-phenyl)-5-(3-dimethylamino-pyrrolidine-1-carbonyl)-1H-indol-2-yl]-(4,4-difluoro-piperidin-1-yl)-methanone
The title compound was synthesized in analogy to example 66, from (RS)-(4,4-difluoro-piperidin-1-yl)-[5-(3-dimethylamino-pyrrolidine-1-carbonyl)-1H-indol-2-yl]-methanone (example 42, intermediate a)), 3-chlorophenylboronic acid, copper(II) acetate and pyridine in dichloromethane, to give the desired product as a colorless foam (30%).

reactant | (RS)-(4,4-difluoro-piperidin-1-yl)-[5-(3-dimethylamino-pyrrolidine-1-carbonyl)-1H-indol-2-yl]-methanone | FC1(CCN(CC1)C(=O)C=1NC2=CC=C(C=C2C1)C(=O)N1CC(CC1)N(C)C)F | C21H26F2N4O2
reactant | 3-chlorophenylboronic acid | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper(II) acetate | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | (RS)-[1-(3-Chloro-phenyl)-5-(3-dimethylamino-pyrrolidine-1-carbonyl)-1H-indol-2-yl]-(4,4-difluoro-piperidin-1-yl)-methanone | 30% | ClC=1C=C(C=CC1)N1C(=CC2=CC(=CC=C12)C(=O)N1CC(CC1)N(C)C)C(=O)N1CCC(CC1)(F)F | C27H29ClF2N4O2
